US05021478
2-Hydroxy-4-[(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yloxy)-carbonylmethoxy]benzophenone
A mixture of 22.0 g (76.8 mmol) of methyl 4-benzoyl-3-hydroxyphenoxyacetate, 32.9 g (0.115 mol) of 4-hydroxy-1-octyloxy-2,2,6,6-tetramethylpiperidine, and 100 ml of xylene is heated at reflux. Water is removed by fractional distillation. The reaction mixture is cooled to 80° C., treated with 2.1 g of lithium amide, and diluted with 50 ml of xylene. The reaction mixture is heated at reflux for 2 hours, and methanol is removed by fractional distillation. The reaction mixture is cooled, then diluted with diethyl ether (250 ml). The organic solution is washed with 1N hydrochloric acid (200 ml), and solids are removed by filtration. The solution is washed with saturated sodium bicarbonate solution (100 ml), dried over magnesium sulfate, and concentrated to an oil. Purification by flash chromatography on silica gel (85:15 heptane: ethyl acetate) affords 32.6 g (79% yield) of the title compound, a yellow syrup.

reactant | methyl 4-benzoyl-3-hydroxyphenoxyacetate | 76.8 mmol, 22.0 g | C(C1=CC=CC=C1)(=O)C1=C(C=C(OCC(=O)OC)C=C1)O | C16H14O5
reactant | 4-hydroxy-1-octyloxy-2,2,6,6-tetramethylpiperidine | 0.115 mol, 32.9 g | OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C17H35NO2
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Hydroxy-4-[(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yloxy)-carbonylmethoxy]benzophenone | 32.6 g, 79% yield | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)OCC(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C32H45NO6
